US04707481
29.9 g of 6-(3-methoxy-4-n-propoxyphenyl)-3[2H]pyridazinone are introduced in portions into 65 ml of phosphorus oxide-trichloride, with stirring, and the mixture is then stirred at 100° for 1 hour. The reaction mixture is concentrated to half in vacuo and poured onto ice, with thorough stirring. The crystals which deposit are filtered off with suction, washed with water and dried in vacuo. 31.6 g of 3-chloro-6-(3-methoxy-4-n-propoxyphenyl)pyridazine are obtained.

reactant | 6-(3-methoxy-4-n-propoxyphenyl)-3[2H]pyridazinone | 29.9 g | COC=1C=C(C=CC1OCCC)C=1C=CC(NN1)=O | C14H16N2O3
reactant | phosphorus oxide-trichloride | 65 ml | [Cl-].[Cl-].[Cl-].[P+3]=O
product | 3-chloro-6-(3-methoxy-4-n-propoxyphenyl)pyridazine | 31.6 g | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)OCCC)OC | C14H15ClN2O2
